US08168651B2
Synthesis of 5-phenyl-7-(4H-1,2,4-triazol-3-yl)benzo[c][2,6]naphthyridine
To 5-chloro-7-(4H-1,2,4-triazol-3-yl)benzo[c][2,6]naphthyridine (21.3 mg), cesium carbonate (49 mg) and phenylboronic acid (19 mg) in dioxane (1 mL) was added PdCl2(dppf) under nitrogen atmosphere. The mixture stirred at 120° C. at 300 W (microwave) for 10 min. Water was added and residue obtained after extraction with dichloromethane was purified by preparative HPLC. LCMS (ES) m/z [M+1]+ 324.

reactant | 5-chloro-7-(4H-1,2,4-triazol-3-yl)benzo[c][2,6]naphthyridine | 21.3 mg | ClC1=NC2=C(C3=CN=CC=C13)C=CC=C2C2=NN=CN2 | C14H8ClN5
reactant | cesium carbonate | 49 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | phenylboronic acid | 19 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Water | O | H2O
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-phenyl-7-(4H-1,2,4-triazol-3-yl)benzo[c][2,6]naphthyridine | C1(=CC=CC=C1)C1=NC2=C(C3=CN=CC=C13)C=CC=C2C2=NN=CN2 | C20H13N5
